US04438128
1-Phenoxy-3-[2-(5-methylindazol-4-ylamino)-ethylamino]-propan-2-ol benzoate
3.0 g. Phenyl glycidyl ether and 6.0 g. 5-methyl-4-(2-aminoethylamino)-indazole are dissolved in 12 ml. dimethylformamide and left to stand for 2 days at ambient temperature. The reaction mixture is taken up in a little methylene chloride, shaken out three times with a 10-fold amount of water and the methylene chloride solution is dried and separated column chromatographically on silica gel using, as elution agent, methylene chloride-methanoltriethylamine (100:10:1 v/v/v). By evaporation of the pure fractions, there are obtained 5.2 g. of a dark oil, which is dissolved in a little ethyl acetate, mixed with 2.5 g. benzoic acid, filtered off with suction and recrystallized from ethyl acetate, with the use of active charcoal and fullers' earth. There are obtained 3.3 g. (36% of theory) of the desired product in the form of colorless crystals; m.p. 97°-103° C.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 5-methyl-4-(2-aminoethylamino)-indazole | CC=1C(=C2C=NNC2=CC1)NCCN | C10H14N4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Phenoxy-3-[2-(5-methylindazol-4-ylamino)-ethylamino]-propan-2-ol benzoate | C(C1=CC=CC=C1)(=O)OC(COC1=CC=CC=C1)CNCCNC1=C2C=NNC2=CC=C1C | C26H28N4O3
